* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         $N_0002 $N_0001  1k  
R_R3         Vo $N_0001  1k  
D_D2         Vo 0 D1N4002 
V_V1         $N_0002 0  AC 1
+SIN 0 10 100 0 0 0
