* Schematics Netlist *



R_R1         N1 N2  1k  
R_R2         N1 N2  1k  
R_R3         Vo N2  1k  
D_D2         Vo 0 D1N4002 
V_V1         N1 0  AC 1
+SIN 0 10 100 0 0 0
